US04812469
2-(2,3-Dihydro-2-oxo-3-phenyl-5-benzofuranyl)acetic acid
75 g of mandelic acid and 75 g of 4-hydroxyphenylacetic acid are mixed in a round-bottomed flask. 800 ml of 80% strength sulfuric acid are added and the medium is then brought rapidly to 90° C. while being stirred. It is hydrolyzed with 2 kg of ice, the aqueous phase is extracted with 3 times 500 ml of ethyl acetate and the organic phase is washed with water, dried over anhydrous sodium sulfate and concentrated under vacuum. 117 g of a yellow oil are thereby obtained, which is purified by chromatography on 1200 g of silica (70-230 mesh), using a mixture of dichloromethane and methanol (98.5:1.5 v/v) as eluant. After evaporation of the solvent, the pure product is obtained.

reactant | mandelic acid | 75 g | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | 4-hydroxyphenylacetic acid | 75 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-(2,3-Dihydro-2-oxo-3-phenyl-5-benzofuranyl)acetic acid | 117 g, Yield: 50% | O=C1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)CC(=O)O | C16H12O4
